US07652008B2
2,2,7-Trimethyl-2H-pyrano[2,3-g]quinoline
To 6-amino-2,2-dimethylchromene (1.00 g, 5.71 mmol), 35% hydrochloric acid (1.43 mL, 17.1 mmol), p-chloranil (1.40 g, 5.71 mmol) and n-butanol (1.3 mL) were added at room temperature and the temperature was increased to 120° C. A solution of crotyl aldehyde (0.567 mL, 6.84 mmol) in n-butanol (0.52 mL) was added and the resulting mixture was stirred at 120° C. for 20 minutes. A solution of zinc chloride (0.777 g, 5.71 mmol) in tetrahydrofuran (10 mL) was added, and the resulting mixture was stirred at 120° C. for 20 minutes. Upon the completion of the reaction, aqueous sodium hydrogencarbonate solution was added, and the resulting solution was extracted with ethyl acetate and dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by column chromatography (hexane/ethyl acetate=2/1), and recrystallized from ethyl acetate to obtain the aimed product (yield: 22%).

reactant | 6-amino-2,2-dimethylchromene | 5.71 mmol, 1.00 g | NC=1C=C2C=CC(OC2=CC1)(C)C | C11H13NO
reactant | hydrochloric acid | 17.1 mmol, 1.43 mL | Cl | ClH
reactant | p-chloranil | 5.71 mmol, 1.40 g | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | n-butanol | 0.52 mL | C(CCC)O | C4H10O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | zinc chloride | 5.71 mmol, 0.777 g | [Cl-].[Zn+2].[Cl-]
solvent | n-butanol | 1.3 mL | C(CCC)O | C4H10O
product | 2,2,7-Trimethyl-2H-pyrano[2,3-g]quinoline | yield: 22% | CC1(C=CC=2C(=CC=3C=CC(=NC3C2)C)O1)C | C15H15NO
